US04324796
Sodium 2-[3-(3-chlorophenyl)propyl]oxirane-2-carboxylate
2.7 g of 2-[3-(3-chlorophenyl)propyl]oxirane-2-carboxylic acid ethyl ester are stirred with 10 ml of 1 N sodium hydroxide solution and 10 ml of ethanol at room temperature for 1 hour. The mixture is concentrated in vacuo, after which the title compound remains as a colorless glassy powder.

reactant | 2-[3-(3-chlorophenyl)propyl]oxirane-2-carboxylic acid ethyl ester | 2.7 g | C(C)OC(=O)C1(OC1)CCCC1=CC(=CC=C1)Cl | C14H17ClO3
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Sodium 2-[3-(3-chlorophenyl)propyl]oxirane-2-carboxylate | ClC=1C=C(C=CC1)CCCC1(OC1)C(=O)[O-].[Na+] | InChI=1S/C12H13ClO3.Na/c13-10-5-1-3-9(7-10)4-2-6-12(8-16-12)11(14)15;/h1,3,5,7H,2,4,6,8H2,(H,14,15);/q;+1/p-1
